US04387238
Following the procedure of Example 53, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and a mixture of dimethylamine hydrochloride (1.23 g) and triethylamine (2.04 g) to give 0.37 g of ethyl N,N-dimethyl-2,3-epoxysuccinamate (Compound No. 85) as colorless oil.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine hydrochloride | 1.23 g | Cl.CNC
solvent | triethylamine | 2.04 g | C(C)N(CC)CC | C6H15N
product | ethyl N,N-dimethyl-2,3-epoxysuccinamate | 0.37 g | CN(C(C1C(C(=O)OCC)O1)=O)C | C8H13NO4
